US06127360
Synthesis of 1-(2-quinolylmethyl)homopiperazine
After a mixture consisting of 2-chloromethyl-quinoline hydrochloride (63.16 g, 295 mmol), triethyl-amine (29.85 g, 295 mmol), homopiperazine (50.08 g, 591 mmol) and ethanol (600 ml) was stirred at room temperature for 2 days, the solvent was distilled off under reduced pressure. Water was added to the residue. After the resulting mixture was washed three times with ethyl ether, sodium chloride was added to the water layer, followed by extraction four times with chloroform-methanol (2:1). The extract was washed with an aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, whereby 28.00 g of the title compound were obtained as a yellow oil (yield: 39.3%).

reactant | 2-chloromethyl-quinoline hydrochloride | 295 mmol, 63.16 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | triethyl-amine | 295 mmol, 29.85 g | C(C)N(CC)CC | C6H15N
reactant | homopiperazine | 591 mmol, 50.08 g | N1CCNCCC1 | C5H12N2
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 1-(2-quinolylmethyl)homopiperazine | 28.00 g | N1=C(C=CC2=CC=CC=C12)CN1CCNCCC1 | C15H19N3
